US05498609
To a suspension of methyltriphenylphosphonium bromide (0.86 g) in tetrahydrofuran (20 ml) is added with stirring potassium t-butoxide (0.23 g) at -5° C., and the mixture is stirred at -5° C. for one hour. To the mixture is added 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.58 g) at the same temperature, and the mixture is stirred at room temperature for one hour. The reaction mixture is poured into ice-water, and extracted with ethyl acetate. The extract is washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-methylidene-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.28 g) as yellow amorphous.

reactant | potassium t-butoxide | 0.23 g | CC(C)([O-])C.[K+]
reactant | 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.58 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)=O)C1 | C24H20ClN3O3
catalyst | methyltriphenylphosphonium bromide | 0.86 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-chloro-5-methylidene-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.28 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)=C)C1 | C25H22ClN3O2
